US06114327
B. 1-Isopropylsulfonyl-2-Amino-6-(1-[2,5-Difluorophenyl]ethen-1-yl)benzimidazole
Methanesulfonic acid (33.0 g, 344 mmol) was added to a solution of 2-amino-α-(2,5-difluorophenyl)-α-methyl-1-[(1-methylethyl)sulfonyl]benzimidazole-6-methanol (53.4 g, 97% purity, 115 mmol) in methylene chloride (500 mL) and the solution turned from beige to brown. The solution was heated at reflux for 1.5 hours until the reaction was complete. After cooling to room temperature, a saturated aqueous solution of sodium bicarbonate (200 mL) was added to neutralize the acid. However, the pH remained at 1 and extensive foaming occurred. The reaction mixture was then neutralized to pH 7-8 with 1N sodium hydroxide (about 90 mL) while keeping the temperature at 20° C. The phases were separated and the organic phase extracted with methylene chloride (100 mL). The combined organic fractions were washed with brine (100 mL) and dried over sodium sulfate. The hazy mixture was filtered to give a clear burnt-orange solution which was concentrated by rotary evaporation at 40-70° C. to give 39.9 g of the title compound as a beige powder (98.5% purity, 91% yield), mp 161.0-164.5° C.

reactant | Methanesulfonic acid | 344 mmol, 33.0 g | CS(=O)(=O)O | CH4O3S
reactant | 2-amino-α-(2,5-difluorophenyl)-α-methyl-1-[(1-methylethyl)sulfonyl]benzimidazole-6-methanol | 115 mmol, 53.4 g | NC1=NC2=C(N1S(=O)(=O)C(C)C)C=C(C=C2)C(O)(C)C2=C(C=CC(=C2)F)F | C18H19F2N3O3S
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 1N, about 90 mL | [OH-].[Na+]
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 1-Isopropylsulfonyl-2-Amino-6-(1-[2,5-Difluorophenyl]ethen-1-yl)benzimidazole | 39.9 g, 91% yield | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(=C)C2=C(C=CC(=C2)F)F)N | C18H17F2N3O2S
